US08106066B2
Potassium permanganate (1.69 mmol) was added in several batches a solution of (6-chlorobenzo[d]isothiazol-3-yl)methanol (2.50 mmol) in water (3 mL). Potassium carbonate (2.90 mmol) was added and the reaction mixture was maintained for 30 min at 25° C. The insoluble materials were removed by filtration and the aqueous layer was extracted with ethyl acetate (3×10 mL). The pH of the aqueous layer was adjusted to 3-4 by the addition of 1 N hydrochloric acid and the reaction mixture was maintained for 10 min. The solids were collected by filtration to provide 6-chlorobenzo[d]isothiazole-3-carboxylic acid in 15% yield as a white solid.

reactant | Potassium permanganate | 1.69 mmol | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | (6-chlorobenzo[d]isothiazol-3-yl)methanol | 2.50 mmol | ClC1=CC2=C(C(=NS2)CO)C=C1 | C8H6ClNOS
reactant | Potassium carbonate | 2.90 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | water | 3 mL | O | H2O
product | 6-chlorobenzo[d]isothiazole-3-carboxylic acid | 15% yield | ClC1=CC2=C(C(=NS2)C(=O)O)C=C1 | C8H4ClNO2S
